US08304557B2
N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
A mixture of ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate (238 mg, 0.524 mmol), hydroxylammonium chloride (364 mg, 5.24 mmol), N,N-diisopropylethylamine (548 μL, 3.14 mmol), ethanol (3 mL) and methanol (3 mL) was stirred at 60° C. for 5 hr and at 80° C. for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate/methanol=50/50/0→40/100/0→40/90/10) and recrystallized from ethyl acetate-hexane to give the title compound (131 mg, 69%) as a white solid.

reactant | ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate | 0.524 mmol, 238 mg | CN1N=C(C=C1C(=O)NC=1C=C(OC=2C=CC(=NC2)NC(=S)NC(OCC)=O)C=CC1)C | C21H22N6O4S
reactant | hydroxylammonium chloride | 5.24 mmol, 364 mg | [Cl-].O[NH3+]
reactant | N,N-diisopropylethylamine | 3.14 mmol, 548 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 131 mg, 69% | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)=N1 | C18H17N7O2
